US08012976B2
Ethyl 2-(4-fluorophenyl)-2-methyl-3-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate
To a solution of 1-methyl-1H-imidazole-2-carbaldehyde (580 mg, 5.2 mmol), and (E)-4-(1-(4-fluorophenyl)ethylideneamino)isobenzofuran-1(3H)-one (1 g, 3.7 mmol) in ethyl propionate (20 ml) was added rapidly EtONa [sodium (340 mg, 14.8 mmol) in 8 mL ethanol] at 0° C., then the mixture was stirred at 30° C. for 3 hr. The resulting mixture was added ethyl acetate (150 mL) and washed with water (25 mL×3), the organic layers were combined and evaporated to dryness to give the crude product, which was purified by column chromatography (silica gel, dichloromethane:methanol=200:1 to 50:1) to afford the title compound as a red solid (120 mg, yield 8%). LC-MS (ESI) m/z: 408 (M+1)+

reactant | 1-methyl-1H-imidazole-2-carbaldehyde | 5.2 mmol, 580 mg | CN1C(=NC=C1)C=O | C5H6N2O
reactant | (E)-4-(1-(4-fluorophenyl)ethylideneamino)isobenzofuran-1(3H)-one | 3.7 mmol, 1 g | FC1=CC=C(C=C1)\C(\C)=N\C1=C2COC(C2=CC=C1)=O | C16H12FNO2
reactant | EtONa | 14.8 mmol, 8 mL, 340 mg | CC[O-].[Na+]
reactant | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl propionate | 20 ml | C(CC)(=O)OCC | C5H10O2
product | Ethyl 2-(4-fluorophenyl)-2-methyl-3-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 120 mg, yield 8% | FC1=CC=C(C=C1)C1(NC=2C=CC=C(C2C(C1C=1N(C=CN1)C)=O)C(=O)OCC)C | C23H22FN3O3
